US07858640B2
{4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid
A mixture of {4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic acid methyl ester (0.14 g), tetrahydrofuran (3.0 mL) and 1.0 M aqueous lithium hydroxide solution (0.55 mL) was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue was diluted with water. The pH of mixture was adjusted to 4 by the addition of sodium dihydrogenphosphate and the resulting precipitate was collected by filtration, washed with water and dried to afford title compound, 0.11 g.

reactant | {4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic acid methyl ester | 0.14 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)OC(F)F)=O | C27H27F3N2O5
reactant | lithium hydroxide | 1.0 M, 0.55 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | {4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid | FC(OC1=C(C(=NC2=C(C=CC(=C12)OCC(=O)O)F)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)F | C26H25F3N2O5
